US06355726B1
N-tritylethylenediamine;
C21H22N2 (288.42); RF=0.21 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour); N-(4-monomethoxytrityl)ethylenediamine; C22H24N2O (332.45); RF=0.21 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour); N-(4,4′-dimethoxytrityl)ethylenediamine; C23H26N2O2 (362.48); RF=0.22 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour).

reactant | ninhydrin spray | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | HCl | Cl | ClH
reactant | N-(4-monomethoxytrityl)ethylenediamine | COC1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)NCCN)C=C1 | C22H24N2O
reactant | N-(4,4′-dimethoxytrityl)ethylenediamine | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)NCCN)C=C1 | C23H26N2O2
solvent | DCM MeOH | C(Cl)Cl.CO
product | N-tritylethylenediamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCN | C21H22N2
